US05310735
608 μl of chlorotrimethylsilane and 670 μl of triethylamine were added, whilst ice-cooling, to a solution of 620 mg of trans-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-L-proline dissolved in 20 ml of anhydrous acetonitrile, and the resulting mixture was stirred at room temperature for 1hour. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was mixed with an aqueous solution of sodium chloride and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and freed from the solvent by distillation under reduced pressure, to afford 648 mg of trans-1-(4-nitrobenzyloxycarbonyl)-4-trimethylsilyloxy-L-proline as a powder. The whole of this product was then dissolved in 14 ml of anhydrous acetonitrile, and 330 mg of N,N'-carbonyldiimidazole were added to the solution. The mixture was then stirred at room temperature for 1 hour. At the end of this time, a solution of 630 mg of 1-[2-(4-nitrobenzyloxycarbonyl)oxyethyl)piperazine in 2 ml of anhydrous acetonitrile was added to the reaction mixture, and the resulting mixture was stirred overnight at room temperature and then at 40° C. for 1 hour. At the ed of this time, 14 ml of 1N aqueous hydrochloric acid were added, and the reaction mixture was stirred at room temperature for 1 hour. It was then made basic by the addition of an aqueous solution of sodium hydrogencarbonate, after which it was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and freed from the solvent by distillation under reduced pressure. The resulting residue was subjected to column chromatography through silica gel using a 9:1 by volume mixture of ethyl acetate and methanol as the eluent. Those fractions containing the title compound were collected and concentrated by evaporation under reduced pressure, to afford 589 mg of the title compound as a powder. The infra-red absorption spectrum and nuclear magnetic resonance spectrum of the product thus obtained were identical with those of the compound prepared as describe din step (a), above.

reactant | chlorotrimethylsilane | 608 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 670 μl | C(C)N(CC)CC | C6H15N
reactant | trans-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-L-proline | 620 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H14N2O7
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | trans-1-(4-nitrobenzyloxycarbonyl)-4-trimethylsilyloxy-L-proline | 648 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O[Si](C)(C)C)C=C1 | C16H22N2O7Si
